US06924278B2
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-ethoxycarbonylmorpholino)-2-butynyl]piperazine (0.42 g) in ethanol (30 ml) was added 1N sodium hydroxide solution (30 ml) and the whole was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure and the residual aqueous solution was neutralized with conc. hydrochloric acid. The solution was extracted with dichloromethane. The extract was dried over magnesium sulfate and evaporated in vacuo to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-carboxymorpholino)-2-butynyl]piperazine (0.26 g) as an oil.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-ethoxycarbonylmorpholino)-2-butynyl]piperazine | 0.42 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2[C@@H](COCC2)C(=O)OCC)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C33H37F6N3O4
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-carboxymorpholino)-2-butynyl]piperazine | 0.26 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2[C@@H](COCC2)C(=O)O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C31H33F6N3O4
